US09447114B2
To a solution of 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenoxy)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate (25 mg, 0.039 mmol) in THF (4 mL) and water (4 mL) was added LiOH/H2O (3.29 mg, 0.079 mmol). The reaction was stirred at RT for 15 min then diluted with DCM (5 mL) and water (5 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (10 mg, 47.1% yield) as a white solid. 1H NMR (DMSO-d6) δ: 7.49 (t, J=8.3 Hz, 1H), 7.21 (dd, J=18.8, 8.6 Hz, 4H), 7.17-7.07 (m, 2H), 7.03 (s, 1H), 4.50 (t, J=5.1 Hz, 1H), 4.10 (s, 2H), 3.99-3.86 (m, 2H), 3.51-3.42 (m, 2H), 3.41 (s, 3H), 1.69 (s, 2H). LCMS: MH+ 541 and TR=3.317 min.

reactant | 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenoxy)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate | 0.039 mmol, 25 mg | FC(C(=O)OCCCN1C(N(C2=C(C1=O)C(=C(S2)OC2=CC(=CC=C2)OC(F)(F)F)CC2=CC=C(C=C2)Cl)C)=O)(F)F | C26H19ClF6N2O6S
reactant | LiOH H2O | 0.079 mmol, 3.29 mg | [Li+].[OH-].O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 5-(4-chlorobenzyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 10 mg, 47.1% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCCO)=O)C)OC3=CC(=CC=C3)OC(F)(F)F)C=C1 | C24H20ClF3N2O5S
